US05827868
To a stirred mixture of ortho-hydroxycinnamic acid (1.00 g, 6.09 mmol) in 10 mL of ether and 10 mL of methanol was added etheral diazomethane until the mixture became yellowish. The mixture was stirred at room temperature for 15 minutes, and the excess diazomethane was destroyed with the addition of acetic acid. The mixture was concentrated in vacuo and diluted with 100 mL of ethyl acetate. This ethyl acetate solution was washed with saturated sodium bicarbonate solution (3×60 mL) and brine (1×60 mL). The organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo to give 1.02 g (94%) of methyl ortho-hydroxycinnamate B.

reactant | ortho-hydroxycinnamic acid | 6.09 mmol, 1.00 g | OC1=C(C=CC(=O)O)C=CC=C1 | C9H8O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | methanol | 10 mL | CO | CH4O
product | methyl ortho-hydroxycinnamate | 1.02 g, 94% | OC1=C(C=CC(=O)OC)C=CC=C1 | C10H10O3
